US08202873B2
Dissolve 3-trifluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester (2.0 g, 9.61 mmol) in N,N-dimethylformamide (20 mL) and cool to 0° C. Add sodium hydride (0.58 g, 14.42 mmol, 60% dispersion in oil) and stir at 0° C. for 20 min. Add iodomethane (0.90 mL, 14.42 mmol) and allow to warm to room temperature over 18 hr. Partition between ethyl acetate (100 mL) and water (50 mL). Separate the organic layer and wash with water (5×50 mL) and saturated aqueous sodium chloride solution (50 mL). Dry (sodium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 90:10 hexanes:ethyl acetate), to give 1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester (1.74 g, 81.7%). 1H-NMR (400 MHz, CDCl3) δ 7.92 (s, 1H), 4.27 (q, 2H), 3.95 (s, 3H), 1.33 (t, 3H).

reactant | 3-trifluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester | 9.61 mmol, 2.0 g | C(C)OC(=O)C=1C(=NNC1)C(F)(F)F | C7H7F3N2O2
reactant | sodium hydride | 14.42 mmol, 0.58 g | [H-].[Na+]
reactant | iodomethane | 14.42 mmol, 0.90 mL | IC | CH3I
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester | 1.74 g, 81.7% | C(C)OC(=O)C=1C(=NN(C1)C)C(F)(F)F | C8H9F3N2O2
